US09231215B2
Synthesis of 2-tetradecyl-thiophene
n-BuLi (1.6 M, 48 mL, 76 mmol) was added dropwise to a solution of thiophene (7.0 g, 83 mmol) in THF (70 mL) at −78° C. and stirred for 45 min. Tetradecyl bromide (23 mL, 76 mmol) in THF (25 mL) was added dropwise to the resultant suspension and then gradually warmed to room temperature and stirred for 18 h. The reaction mixture was quenched with water (60 mL) and extracted with diethyl ether (2×100 mL). The combined organic extracts were dried over MgSO4 and concentrated to give brown oil (20.7 g, 97%), which was used directly in the next step without further purification. 1H NMR (400 MHz, CDCl3) δ 7.10 (d, 1H, J=5.2 Hz), 6.91 (dd, 1H, J=5.7, 4.4 Hz), 6.77 (d, 1H, J=3.2 Hz), 2.82 (t, 2H, J=7.6 Hz), 1.68 (q, 2H, J=6.8 Hz), 1.50-1.20 (m, 22H), 0.88 (t, 3H, J=6.8 Hz).

reactant | n-BuLi | 76 mmol, 1.6 M, 48 mL | [Li]CCCC
reactant | thiophene | 83 mmol, 7.0 g | S1C=CC=C1 | C4H4S
reactant | Tetradecyl bromide | 76 mmol, 23 mL | C(CCCCCCCCCCCCC)Br | C14H29Br
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2-tetradecyl-thiophene | 20.7 g, 97% | C(CCCCCCCCCCCCC)C=1SC=CC1 | C18H32S
